US08604061B2
a) (2S,5R)-2-[2-(2-Chloro-phenyl)-ethyl]-5-isopropyl-3,6-dimethoxy-2-methyl-2,5-dihydro-pyrazine
A solution of (R)-(−)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-methylpyrazine (1.0 g, 5.0 mmol) in tetrahydrofuran (23 ml) was cooled to −70° C., then tert.butyllithium (1.7 M in pentane, 3.26 ml, 5.55 mmol) was added and the mixture was stirred for 1 hour. A solution of 1-(2-bromo-ethyl)-2-chlorobenzene (1.44 g, 6.56 mmol) in tetrahydrofuran (10 ml) was added slowly and the mixture was stirred overnight at −70° C. At room temperature saturated ammonium chloride solution was added and the mixture was extracted three times with ether. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (SiO2, heptane/EtOAc=1:1 to yield an orange solid, (1.22 g, 72%); MS (ISP): 337.1; 339.1 ((M+H)+.).

reactant | (R)-(−)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-methylpyrazine | 5.0 mmol, 1.0 g | COC=1[C@H](N=C(C(N1)C)OC)C(C)C | C10H18N2O2
reactant | tert.butyllithium | 5.55 mmol, 1.7 M, 3.26 ml | C(C)(C)(C)[Li]
reactant | 1-(2-bromo-ethyl)-2-chlorobenzene | 6.56 mmol, 1.44 g | BrCCC1=C(C=CC=C1)Cl | C8H8BrCl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,5R)-2-[2-(2-Chloro-phenyl)-ethyl]-5-isopropyl-3,6-dimethoxy-2-methyl-2,5-dihydro-pyrazine | ClC1=C(C=CC=C1)CC[C@@]1(N=C([C@H](N=C1OC)C(C)C)OC)C | C18H25ClN2O2
